US08071592B2
(c) 7-(Methyloxy)-1-(2-propen-1-yl)-2(1H)-quinolinone
7-(Methyloxy)-1-(2-propen-1-yl)quinolinium iodide (14.81 g; 45.43 mmol), KOH (11.20 g; 199.89 mmol) and K3-[Fe(CN)6] (32.78 g; 99.95 mmol) were stirred in 1:1 water: 1,4-dioxane (400 ml) at rt under Argon for 1 h. More KOH (1.1 g; 19.9 mmol) and K3-[Fe(CN)6] (3.28 g; 10.0 mmol) were added to the reaction and it was stirred under the same conditions for a further 0.5 h. EtOAc (500 ml) and water (500 ml) was then added. The layers were then separated and the combined organic layers were washed with water and then concentrated. The crude residue was then purified by column chromatography on silica gel using a 0-5% MeOH/DCM gradient to give the desired product (4.90 g; 51%).

reactant | 7-(Methyloxy)-1-(2-propen-1-yl)quinolinium iodide | 45.43 mmol, 14.81 g | [I-].COC1=CC=C2C=CC=[N+](C2=C1)CC=C
reactant | KOH | 199.89 mmol, 11.20 g | [OH-].[K+]
reactant | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
reactant | KOH | 19.9 mmol, 1.1 g | [OH-].[K+]
solvent | water | 500 ml | O | H2O
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 7-(Methyloxy)-1-(2-propen-1-yl)-2(1H)-quinolinone | 4.90 g, 51% | COC1=CC=C2C=CC(N(C2=C1)CC=C)=O | C13H13NO2
